US03954734
3',4'-Dichloroacetophenone (9.65 g., 0.05 mole) and N-methylpiperazine (10 g., 0.1 mole) are refluxed (165° C) for 24 hours. The solution is cooled and 100 ml. water containing 2 g. of sodium hydroxide is added. The oil is decanted and diluted with 200 ml. of toluene and washed first with dilute alkali then several times with water. The toluene layer is dried with magnesium sulfate and evaporated in vacuo to an oil. The residue is distilled 146°-150° at 0.1-0.3 mm., yield 3.0 g. This product is dissolved in ethyl ether and converted to the hydrochloride using isopropanolic hydrogen chloride and the salt crystallized from acetonitrile. The purified salt is reconverted to the base with dilute sodium hydroxide. The product is extracted using ethyl ether, separated, dried, evaporated to dryness to give 3'-chloro-4'-(4-methyl-1-piperazinyl)acetophenone as a yellow oil.

reactant | 3',4'-Dichloroacetophenone | 0.05 mole, 9.65 g | ClC=1C=C(C=CC1Cl)C(C)=O | C8H6Cl2O
reactant | N-methylpiperazine | 0.1 mole, 10 g | CN1CCNCC1 | C5H12N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 2 g | O | H2O
product | 3'-chloro-4'-(4-methyl-1-piperazinyl)acetophenone | ClC=1C=C(C=CC1N1CCN(CC1)C)C(C)=O | C13H17ClN2O
